US05043142
To a solution of 1.46 g (36.5 mmol) of sodium hydride contained at 60% in mineral oil in dry dimethylformamide (50 ml) was added 2.02 g (11.0 mmol) of 3,4,5-trimethoxyphenol in an atmosphere of argon, and the mixture was allowed to react at 0° C. for 15 min. To the reaction mixture was added 3.60 g (14.4 mmol) of 4-bromobenzyl bromide. The resulting mixture was reacted at room temperature for 24 hours. To the reaction mixture at 0° C. was added a saturated aqueous solution of ammonium chloride followed by extraction with ethyl acetate. The organic layer was washed with water and then concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. Elution with dichloromethane-hexane (1:1) yielded 3.28 g (9.28 mmol) of 4-bromobenzyl 3,4,5-trimethoxyphenyl ether.

reactant | sodium hydride | 36.5 mmol, 1.46 g | [H-].[Na+]
reactant | 3,4,5-trimethoxyphenol | 11.0 mmol, 2.02 g | COC=1C=C(C=C(C1OC)OC)O | C9H12O4
reactant | 4-bromobenzyl bromide | 14.4 mmol, 3.60 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-bromobenzyl 3,4,5-trimethoxyphenyl ether | 9.28 mmol, 3.28 g | COC=1C=C(C=C(C1OC)OC)OCC1=CC=C(C=C1)Br | C16H17BrO4
